US09162992B2
A solution of tert-butyl ethoxycarbamate (XCIII, 2.48 g, 15.38 mmol) in DMF (10 mL) was added dropwise to the suspension of 60% sodium hydride (0.66 g, 16.92 mmol) in DMF (5 mL) at 0° C. After 30 min. methyl iodide (1.95 mL, 31.32 mmol) in DMF (10 mL) was added, and the reaction mixture was stirred at room temperature for 24 h. Water (100 mL) was added and the product was extracted with ethyl acetate (3×50 mL), dried over Na2SO4, and concentrated in vacuo to yield tert-butyl ethoxy(methyl)carbamate (XCIV, 2.34 g, 87%). 400 MHz 1H NMR (DMSO-d6, ppm) 3.81 (2H, q, J=7.0 Hz), 3.00 (3H, s), 1.41 (9H, s), 1.12 (3H, t, J=7.0 Hz).

reactant | tert-butyl ethoxycarbamate | 15.38 mmol, 2.48 g | C(C)ONC(OC(C)(C)C)=O | C7H15NO3
reactant | sodium hydride | 16.92 mmol, 0.66 g | [H-].[Na+]
reactant | methyl iodide | 31.32 mmol, 1.95 mL | CI | CH3I
reactant | Water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl ethoxy(methyl)carbamate | 2.34 g, 87% | C(C)ON(C(OC(C)(C)C)=O)C | C8H17NO3
